US08278457B2
Cis-5-[(2-azidocyclohexyl)oxy]-2-bromopyridine, prepared from trans-2-[(6-bromopyridin-3-yl)oxy]cyclohexanol by the general procedures described in Example 5 for the conversion of trans-2-(4-bromophenoxy)cyclopentanol to cis-2-azidocyclopentyl 4-bromophenyl ether) (13.5 g, 45.4 mmol) was dissolved in tetrahydrofuran (292 mL) and water (23 mL), and the solution was treated with triphenylphosphine (23.8 g, 90.7 mmol). The reaction was stirred for 18 hours at room temperature, then partitioned between ethyl acetate (500 mL) and water (200 mL). The aqueous layer was extracted with ethyl acetate, and the combined organic layers were washed with water (2×200 mL) and saturated aqueous sodium chloride solution (200 mL). The organic layer was then extracted with aqueous 1N hydrochloric acid (4×150 mL), and the combined aqueous layers were washed with ethyl acetate (150 mL). The aqueous layer was then cooled in an ice bath and slowly treated with an aqueous 2N solution of sodium hydroxide, until the mixture was a cloudy white; it was then extracted with ethyl acetate (3×150 mL), and the combined organic layers were washed with saturated aqueous sodium chloride solution (150 mL), dried over sodium sulfate, filtered and concentrated in vacuo. Cis-2-[(6-bromopyridin-3-yl)oxy]cyclohexanamine was obtained as a yellow oil. Yield: 8.00 g, 29.5 mmol, 65%. 1H NMR (500 MHz, CDCl3) δ 1.34 (d, J=6.8 Hz, 3H), 1.35 (d, J=6.7 Hz, 3H), 1.35-1.52 (m, 4H), 1.79-1.85 (m, 3H), 2.02 (m, 1H), 3.11 (septet, J=6.8 Hz, 1H), 3.53 (m, 1H), 4.59 (br s, 1H), 4.68 (m, 1H), 7.19 (dd, J=8.7, 3.1 Hz, 1H), 7.38 (d, J=8.7 Hz, 1H), 8.07 (d, J=3.2 Hz, 1H).

reactant | Cis-5-[(2-azidocyclohexyl)oxy]-2-bromopyridine | N(=[N+]=[N-])[C@@H]1[C@@H](CCCC1)OC=1C=CC(=NC1)Br | C11H13BrN4O
reactant | trans-2-[(6-bromopyridin-3-yl)oxy]cyclohexanol | BrC1=CC=C(C=N1)O[C@H]1[C@@H](CCCC1)O | C11H14BrNO2
reactant | trans-2-(4-bromophenoxy)cyclopentanol | BrC1=CC=C(O[C@H]2[C@@H](CCC2)O)C=C1 | C11H13BrO2
reactant | cis-2-azidocyclopentyl 4-bromophenyl ether | BrC1=CC=C(C=C1)O[C@H]1[C@H](CCC1)N=[N+]=[N-] | C11H12BrN3O
reactant | triphenylphosphine | 90.7 mmol, 23.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 292 mL | O1CCCC1 | C4H8O
solvent | water | 23 mL | O | H2O
product | Cis-2-[(6-bromopyridin-3-yl)oxy]cyclohexanamine | BrC1=CC=C(C=N1)O[C@@H]1[C@@H](CCCC1)N | C11H15BrN2O
